US05091182
The above 1.0% ketorolac topical gel formulation was prepared by dissolving the ketorolac tromethamine, EDTA disodium salt and tromethamine in purified water to form an aqueous solution. (Tromethamine was added to maintain the pH of the formulation at pH 4.2±0.2.) The diisopropyl adipate and butylated hydroxytoluene were then dissolved in the isopropyl alcohol to form an alcoholic solution. Carbomer 940 was then slowly dispersed in this alcoholic solution so as to avoid gelling. After the carbomer 940 was completely dispersed, the aqueous solution containing ketorolac tromethamine was then added to the alcoholic solution. The resulting mixture was then brought up to weight with purified water and, if needed, the pH was adjusted with either tromethamine or hydrochloric acid to maintain the pH of the formulation at 4.2±0.2. The resulting formulation was then slowly stirred at temperatures below 20° C. until gelling of the formulation was complete.

reactant | ketorolac tromethamine | C=1C=CC(=CC1)C(=O)C2=CC=C3N2CCC3C(=O)O.C(C(CO)(CO)N)O
reactant | EDTA disodium salt | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
reactant | tromethamine | NC(CO)(CO)CO | C4H11NO3
reactant | diisopropyl adipate | C(CCCCC(=O)OC(C)C)(=O)OC(C)C | C12H22O4
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | ketorolac | above 1.0% | C=1C=CC(=CC1)C(=O)C2=CC=C3N2CCC3C(=O)O | C15H13NO3
